US04008070
A solution of 3-chloromethyl-5-chloro-1H-indazole (4.5 g) in ethanol (50 ml) is dropwise added to a solution of potassium cyanide (17 g) in water (10 ml) while stirring at 5° C, and the resulting mixture is stirred at room temperature for 2 hours and at 50° C for 2 hours. The reaction mixture is cooled and the precipitated potassium chloride is removed by filtration. The filtrate is concentrated under reduced pressure, admixed with water and extracted with ether. The ether layer is washed with water, dried over anhydrous magnesium sulfate and concentrated to give 3-cyanomethyl-5-chloro-1H-indazole (3.0 g) as resinous material.

reactant | 3-chloromethyl-5-chloro-1H-indazole | 4.5 g | ClCC1=NNC2=CC=C(C=C12)Cl | C8H6Cl2N2
reactant | potassium cyanide | 17 g | [C-]#N.[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 3-cyanomethyl-5-chloro-1H-indazole | 3.0 g | C(#N)CC1=NNC2=CC=C(C=C12)Cl | C9H6ClN3
